US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-2,5-dichlorobenzonitrile (60 mg, 0.174 mmol), 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid (27.9 mg, 0.174 mmol) and HOBT (26.6 mg, 0.174 mmol) was added EDC (33.3 mg, 0.174 mmol) and the reaction mixture was stirred at rt for 2 hours. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material was purified via reverse phase HPLC to give 4-chloro-N-({4-chloro-3-[(2,5-dichloro-3-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide (28 mg, 0.046 mmol, 27% yield) as the TFA salt. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.66 (d, 1H), 7.29-7.49 (m, 2H), 6.97 (s, 1H), 4.64 (s, 2H), 2.34 (s, 3H). LC-MS (ES+) m/z 486.93, [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-2,5-dichlorobenzonitrile | 0.174 mmol, 60 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C(=C(C#N)C=C(C1)Cl)Cl)F | C14H8Cl3FN2O
reactant | 4-chloro-2-methyl-1H-imidazole-5-carboxylic acid | 0.174 mmol, 27.9 mg | ClC=1N=C(NC1C(=O)O)C | C5H5ClN2O2
reactant | HOBT | 0.174 mmol, 26.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.174 mmol, 33.3 mg
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-N-({4-chloro-3-[(2,5-dichloro-3-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-methyl-1H-imidazole-5-carboxamide | 0.046 mmol, 28 mg, 27% yield | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=C(C(=CC(=C1)Cl)C#N)Cl)F)C | C19H11Cl4FN4O2
